US08110579B2
Stir a suspension of 20 g (67.2 mmol) of 2-benzyloxy-4-bromo-1-chlorobenzene, 28 g (94 mmol) of 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane and 26.4 g (26.9 mmol) of potassium acetate in 280 mL of anhydrous DMSO for 10 minutes under argon, then add 2.46 g (3.4 mmol) of PdCl2 (dppf) and heat for 1 h at 110° C. After distributing in 1 L of a 1:1 ether/water mixture and filtering on a bed of celite, wash the organic phase with 100 mL of water, dry over Na2SO4, then concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a heptane/EtOAc gradient from 0 to 10% of EtOAc. After concentration under reduced pressure, we obtain 17.5 g of 2-[3-(benzyloxy)-4-chlorophenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane in the form of oil.

reactant | 2-benzyloxy-4-bromo-1-chlorobenzene | 67.2 mmol, 20 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)Cl | C13H10BrClO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 94 mmol, 28 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 26.9 mmol, 26.4 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 280 mL | CS(=O)C | C2H6OS
solvent | ether water | 1 L | CCOCC.O
catalyst | PdCl2 | 3.4 mmol, 2.46 g | Cl[Pd]Cl
product | 2-[3-(benzyloxy)-4-chlorophenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 17.5 g, Yield=74% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)B1OC(C(O1)(C)C)(C)C | C19H22BClO3
